2177-01-19 08:17:00 Physician Resident Progress Note
Chief Complaint: fever, hypotension, afib with RVR
   24 Hour Events:
 EKG - At [**2177-1-18**] 06:30 PM
 FEVER - 101.1
F - [**2177-1-19**] 12:00 AM
   New delerium
   converted back to sinus with amiodarone
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-1-18**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-1-18**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Pain: [**4-3**] Moderate
   Flowsheet Data as of  [**2177-1-19**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 85 (71 - 131) bpm
   BP: 127/47(67) {87/46(59) - 171/84(105)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  7,318 mL
                                                                    982 mL
   PO:
             TF:
   IVF:
                                                                  1,468 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  2,859 mL
                                                                    390 mL
   Urine:
                                                                    320 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   30 mL
   Balance:
                                                                  4,459 mL
                                                                    592 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: No(t) Bowel sounds present, Distended, Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): person, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   147 K/uL
   10.8 g/dL
   146 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.7 mEq/L
   16 mg/dL
   104 mEq/L
   135 mEq/L
   31.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
   WBC
   17.5
   Hct
   31.3
   Plt
   147
   Cr
   1.2
   Glucose
   146
   Other labs: CK / CKMB / Troponin-T:882, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.2 mg/dL
   Fluid analysis / Other labs: .
   Imaging: .
   Microbiology: .
   ECG:
   In sinus
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKOCYTOSIS
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   74M with AFib, CAD s/p LAD stent [**69**], HTN, hyperlipidemia, POD#2 s/p [**Month (only) **]
   for rectal [**Hospital **] transferred to the MICU for Afib w/ RVR in setting of
   fever to 102.
   # Altered mental status
   Exam c/w delirium. Could be from ativan given at 2am (given for
   hypertension, tachycardia, tachypnea with pain well controlled) vs
   raglan vs infection vs fever/pain/infection. Concern for CVA as with
   afib but exam non-focal
   -- f/u CT head
   -- appreciate neuro recs
   -- improve pain control
   -- no more ativan
   -- consider holding raglan
   -- treat fever as long as has adequate cultures
   # Fever/leukocytosis - POD#2
   CXR with some obscuring of right heart border. Could be atelectasis vs
   aspiraton. His pain has been poorly controlled and lung volumes low on
   CXR. Mostly likely atelectasis UA clean.
   -- improve pain control (PCA switched to Q2 prn morphine given mental
   status)
   -- IS, encourage cough
   -- f/u sputum culture
   -- KUB ordered per surgery recs
   -- will hold on antibiotics for now and monitor
   # Hypertension
   Likely [**12-31**] pain.
   -- improve pain control
   -- monitor
   -- consider restart ACE if renal function stable and still hypertensive
   # Afib w/ RVR
   Now in sinus. On amiodarone.
   -- continue amoio gtt
   -- appreciate cardiology recs
   -- replete lytes
   -- continue aspirin/plavix
   -- treat pain appropriately
   -- treat fevers
   -- at some point willl need to address anticoagulation but
   aspirin/plavix likely appropriate long term
   # CAD s/p BMS [**2169**] to LAD
   - continue aspirin, plavix, hold ACE given recent hypotension, continue
   statin
   # Rectal CA s/p [**Month (only) **]
   - continue sips
   - appreciate surgical staff following
   - pain control w/ IV morphine, encourage pts use
   - keep foley
   ICU Care
   Nutrition:
   Comments: sips
   Glycemic Control:
   Lines:
   16 Gauge - [**2177-1-18**] 07:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2177-01-19 10:39:00 Physician Attending Progress Note
Chief Complaint: atrial fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo male with CAD, paroxysmal afib s/p pelvic resection for newly
   dx'd rectal [**Hospital **] transferred to [**Hospital Unit Name 1**] for rapid atrial fibrillation in
   the setting of post- op fever. On amiodarone infusion with conversion
   to SR shortly after [**Hospital Unit Name 1**] arrival
   24 Hour Events:
 Recurrent fever overnight- FEVER - 101.1
F - [**2177-1-19**] 12:00 AM
   Agitated- got Ativan and now delirious
   Aphasic this morning- head CT and Neurology consult
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-1-18**] 08:30 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-1-18**] 10:17 PM
   Other medications:
   Plavix, morphine PCA, reglan, ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-19**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37
C (98.6
   HR: 105 (71 - 131) bpm
   BP: 181/84(108) {87/46(59) - 181/84(108)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  7,318 mL
                                                                  1,073 mL
   PO:
             TF:
   IVF:
                                                                  1,468 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  2,859 mL
                                                                    490 mL
   Urine:
                                                                    320 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   30 mL
   Balance:
                                                                  4,459 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic);
   tachycardic, RR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical)
   Abdominal: Soft, Distended, \LUQ colostomy, surgical dressing
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: voice, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   147 K/uL
   146 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.7 mEq/L
   16 mg/dL
   104 mEq/L
   135 mEq/L
   31.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
   WBC
   17.5
   Hct
   31.3
   Plt
   147
   Cr
   1.2
   Glucose
   146
   Other labs: CK / CKMB / Troponin-T:882//, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: troponin <0.01
   Assessment and Plan
 DELIRIUM / CONFUSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKOCYTOSIS
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   74 yo male with CAD, atrial fibrillation, rectal CA s/p resection
   [**Hospital Unit Name 1**] for atrial fibrillation now controlled. Overnight events notable
   for AMS.
   For AMS, presentation s/o delirium, diff dx includes toxic metabolic,
   med-induced, infection. Neuro exam appears non-focal but will get head
   CT; neurology consulted. Dc reglan and ativan
   Re: atrial fibrillation
 still in SR, continue amiodarone infusion. Pt
   is s/p pelvic resection for rectal carcinoma- per surgical team, he
   would benefit from additional pain control so will write for prn
   morphine. Continue ASA/plavix for CAD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2177-1-18**] 07:02 PM
   18 Gauge - [**2177-1-19**] 12:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes.
   Patient is critically ill

2177-01-20 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2177-1-19**] 09:29 PM
   Head and neck
 FEVER - 102.5
F - [**2177-1-19**] 12:00 PM
   - In AM: worried for aphasia, patient losing focus, can't follow simple
   commands.  Did get 0.5mg ativan overnight at 2am.  Neurology was
   consulted recommended head CT and MRI.
   - CT head:
   1. No acute intracranial abnormality.
   2. Aerosolized secretions in the left maxillary sinus and mucosal
   thickening in the bilateral ethmoid sinuses. Recommend clinical
   correlation.
   - Patient ordered for MRI of head
   - Amiodarone gtt stopped by early evening.  Patient went in and out of
   afib, started on lopressor 25mg [**Hospital1 **].  His bp dropped to 80s but
   subsequently improved to sbp 100-120. Lopressor dose reduced by half to
   12.5mg and changed to Q8H. Need to speak w/ outpt cardiologist re why
   not on metoprolol,
   - Patient not using pca [**Last Name (LF) 632**], [**First Name3 (LF) **] he was switched to morphine iv prn.
   - Spiked fever to 101.6, started on unasyn empirically, as well as
   pan-culture
   - Diet advanced to sips then changed back to NPO except meds per
   surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-1-18**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-20**] 05:32 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2177-1-19**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-20**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.6
C (101.4
   HR: 103 (78 - 122) bpm
   BP: 146/73(89) {91/52(61) - 193/90(113)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.1 kg (admission): 105 kg
   Height: 70 Inch
             Total In:
                                                                  2,784 mL
                                                                    792 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,684 mL
                                                                    792 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    590 mL
   Urine:
                                                                  1,970 mL
                                                                    590 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
                                                                     50 mL
   Balance:
                                                                    714 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GEN: Somnolent but opens eyes occasionally to voice, follows commands
   CV: Tachycardic, irregular, no RMG, JVP wnl
   PULM: CTAB anteriorly
   ABD: Soft, NTND, ostomy site clean, dry, intact, quiet BS
   EXT: no edema
   Labs / Radiology
   144 K/uL
   12.0 g/dL
   129 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.7 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   35.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
                             [**2177-1-20**]  04:15 AM
   WBC
   17.5
   10.0
   Hct
   31.3
   35.6
   Plt
   147
   144
   Cr
   1.2
   1.4
   Glucose
   146
   129
   Other labs: PT / PTT / INR:12.4/23.9/1.0, CK / CKMB / Troponin-T:882//,
   Differential-Neuts:83.8 %, Lymph:13.4 %, Mono:2.3 %, Eos:0.3 %,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKOCYTOSIS
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   74M with AFib, CAD s/p LAD stent [**69**], HTN, hyperlipidemia, POD#2 s/p [**Month (only) **]
   for rectal [**Hospital **] transferred to the MICU for Afib w/ RVR in setting of
   fever to 102.
   # Altered mental status: Somnolence this AM likely [**12-31**] morphine.
   Exam c/w delirium. Could be from ativan given at 2am (given for
   hypertension, tachycardia, tachypnea with pain well controlled) vs
   reglan vs infection vs fever/pain/infection. CT head neg for acute
   process.  Concern for CVA as with afib but exam non-focal
   -- Reduce morphine dosing as patient sedated this am
   -- f/u MRI head
   -- appreciate neuro recs, will consider LP if no improvement in
   mentation.
   -- no more ativan
   -- consider holding reglan
   -- treat fever as long as has adequate cultures
   # Fever/leukocytosis - POD#2
   CXR with some obscuring of right heart border. Could be atelectasis vs
   aspiraton. His pain has been poorly controlled and lung volumes low on
   CXR. Mostly likely atelectasis UA clean.  Wound site looks clean.
   -- Repeat sputum and CXR
   -- improve pain control (PCA switched to Q2 prn morphine given mental
   status)
   -- IS, encourage cough
   -- will continue current antibiotics for now and monitor
   # Hypertension: Improved for now.
   Likely [**12-31**] pain.
   -- improve pain control
   -- monitor
   -- consider restart ACE if renal function stable and still hypertensive
   # Afib w/ RVR
   Now in sinus. On amiodarone.
   -- Awaken pt by reducing morphine to allow him to take POs
   -- continue amoio gtt
   -- appreciate cardiology recs
   -- replete lytes
   -- continue aspirin/plavix
   -- treat pain appropriately
   -- treat fevers
   -- at some point willl need to address anticoagulation but
   aspirin/plavix likely appropriate long term
   # ARF: Likely prerenal secondary to poor PO intake. Low urine output.
   -- 500cc bolus
   -- Cont maintainance fluids
   -- Rate control may improve forward flow
   # CAD s/p BMS [**2169**] to LAD
   - continue aspirin, plavix, hold ACE given recent hypotension, continue
   statin
   # Rectal CA s/p [**Month (only) **]
   - continue NPO
   - appreciate surgical staff following, f/u recs
   - pain control w/ IV morphine, though will reduce doses to avoid
   oversedation
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   16 Gauge - [**2177-1-18**] 07:02 PM
   18 Gauge - [**2177-1-19**] 12:53 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2177-01-20 10:51:00 Physician Attending Progress Note
Chief Complaint: Afib, RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo male with CAD, paroxysmal afib s/p pelvic resection for newly
   dx'd rectal [**Hospital **] transferred to [**Hospital Unit Name 1**] for rapid atrial fibrillation in
   the setting of post- op fever. On amiodarone infusion with conversion
   to SR shortly after [**Hospital Unit Name 1**] arrival
   24 Hour Events:
   Head CT: no acute process
 MAGNETIC RESONANCE IMAGING - At [**2177-1-19**] 09:29 PM
   Head and neck
 FEVER - 102.5
F - [**2177-1-19**] 12:00 PM, blood cultures sent, started
   empirically on unasyn
   Continues amiodarone drip
   Received 2 mg IV morphine at 8 am, somnolent this morning, arousable to
   voice albeit falling asleep during the exam
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-1-18**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-20**] 05:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-1-20**] 08:00 AM
   Morphine Sulfate - [**2177-1-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-1-20**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.3
C (100.9
   HR: 88 (78 - 122) bpm
   BP: 97/61(70) {91/52(61) - 179/90(106)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 105 kg
   Height: 70 Inch
             Total In:
                                                                  2,784 mL
                                                                  1,150 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,684 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    785 mL
   Urine:
                                                                  1,970 mL
                                                                    785 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
                                                                     50 mL
   Balance:
                                                                    714 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg, irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   dependently), unable to take big breaths given sedated this am
   Abdominal: Soft, Distended, staples intact, no erythema/drainage
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   144 K/uL
   129 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.7 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   35.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
                             [**2177-1-20**]  04:15 AM
   WBC
   17.5
   10.0
   Hct
   31.3
   35.6
   Plt
   147
   144
   Cr
   1.2
   1.4
   Glucose
   146
   129
   Other labs: PT / PTT / INR:12.4/23.9/1.0, CK / CKMB / Troponin-T:882//,
   Differential-Neuts:83.8 %, Lymph:13.4 %, Mono:2.3 %, Eos:0.3 %,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Imaging: MRI head:  preliminary read is negative
   Assessment and Plan
 DELIRIUM / CONFUSION;  Sedated this morning following morphine.  Will
   decrease dose to get adequate pain control without oversedating him.
   MRI negative on preliminary read. No need for LP at this point.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Postoperative fever. CXR yesterday negative for infiltrate.  Started
   empirically on unasyn per surgery.
 LEUKOCYTOSIS:  WBC trending downward.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):  NPO per
   surgical service.
 ACUTE RENAL FAILURE:  Bump in Cr likely related to being NPO.  On
   maintenance fluids, given one IVF bolus this am. UO >30 cc/hr.  Will
   monitor I/Os and follow serial labs.
 ATRIAL FIBRILLATION (AFIB):  With RVR on amiodarone drip as unablet
   to take po's.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Adjusting morphine as noted
   above
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   16 Gauge - [**2177-1-18**] 07:02 PM
   18 Gauge - [**2177-1-19**] 12:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-01-21 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-1-20**] 03:03 PM
     times two
 URINE CULTURE - At [**2177-1-20**] 03:03 PM
   -Surgery spoke with patient's outpatient cardiologist who agrees with
   amio gtt and would like to transition to amio 200mg PO BID after acute
   setting.
   - Surgery recs: rate control and advance to clears.
   - No neuro recs
   - MRI negative.
   - Morphine decreased.
   - On amio gtt.
   - Blood and urine cultures pending.
   - Statin started. Atorvastatin 20mg PO/NG daily.
   - Became hypotensive in am in context of receiving morphine, given 2
   500cc boluses and pressures stabilized
   - Remained in a fib in RVR much of the day, given metoprolol 5mg IV x 2
   then 12.5mg PO ONCE and pt broke to NSR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-1-18**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-20**] 11:48 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2177-1-20**] 10:30 AM
   Morphine Sulfate - [**2177-1-20**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-20**] 07:54 PM
   Metoprolol - [**2177-1-21**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 35.9
C (96.7
   HR: 82 (71 - 145) bpm
   BP: 156/89(106) {81/50(58) - 181/92(115)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 105 kg
   Height: 70 Inch
             Total In:
                                                                  4,129 mL
                                                                    296 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,009 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    380 mL
   Urine:
                                                                  1,900 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   9.7 g/dL
   150 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.4 mEq/L
   19 mg/dL
   111 mEq/L
   138 mEq/L
   28.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
                             [**2177-1-20**]  04:15 AM
                             [**2177-1-20**]  03:07 PM
                             [**2177-1-21**]  03:34 AM
   WBC
   17.5
   10.0
   11.5
   Hct
   31.3
   35.6
   29.4
   28.9
   Plt
   147
   144
   148
   Cr
   1.2
   1.4
   1.2
   TropT
   <0.01
   Glucose
   146
   129
   150
   Other labs: PT / PTT / INR:12.3/27.7/1.0, CK / CKMB /
   Troponin-T:263/3/<0.01, Differential-Neuts:83.8 %, Lymph:13.4 %,
   Mono:2.3 %, Eos:0.3 %, Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.1 mg/dL
   Imaging: MRI Head:
   There is no evidence of acute infarct seen. There is no mass effect,
   midline shift or hydrocephalus. There is mild brain atrophy seen.
   Following gadolinium, no evidence of abnormal parenchymal, vascular or
   meningeal enhancement seen.
   CXR:
   Cardiomediastinal contours are unchanged. Lung volumes remain low.
   Marked improved aeration in left lower lobe with minor residual
   atelectasis remaining. Patchy and linear areas of atelectasis at the
   right base are not appreciably changed. No newly developed areas of
   lung abnormality to suggest a source of infection.
   Assessment and Plan
 DELIRIUM / CONFUSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKOCYTOSIS
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   74M with AFib, CAD s/p LAD stent [**69**], HTN, hyperlipidemia, POD#2 s/p [**Month (only) **]
   for rectal [**Hospital **] transferred to the MICU for Afib w/ RVR in setting of
   fever to 102.
   # Afib w/ RVR: Placed on amiodarone gtt, due to be turned off at noon.
   Currently in sinus rhythm.
   -- Surgery has contact[**Name (NI) **] outpatient PCP, [**Name10 (NameIs) 13570**] starting 200mg
   amiodarone and continuing as an outpatient.
   -- If patient reverts into sinus on amiodarone can give trial of
   metoprolol 5mg iv (good response last night).
   -- Replete lytes
   -- Continue aspirin/plavix; will need to address anticoagulation as
   outpatient
   -- Treat pain appropriately
   # Fever/leukocytosis - POD#3: Fever curve trending down.  CXR w/o sign
   of infection and UA w/ bacturia but no pyuria.
   -- Continue unasyn for now, per surgery likely will d/c tomorrow
   -- IS, encourage cough
   -- Trend fever curve
   # Altered mental status: Resolved.  Likely secondary to medications:
   ativan and morphine.  CT head and MRI neg for acute processes.
   Somnolence this AM likely [**12-31**] morphine.
   # Hypertension:
   -- Pain control
   -- Likely can restart home ACE tomorrow if BP stable
   # ARF: Resolved with fluids.
   # CAD s/p BMS [**2169**] to LAD
   -- Continue aspirin, plavix, hold ACE given recent hypotension,
   continue statin
   # Rectal CA s/p [**Month (only) **]
   -- Advance diet to regular
   -- Appreciate surgical staff following, f/u recs
   -- Pain control w/ morphine and tylenol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-19**] 12:53 AM
   20 Gauge - [**2177-1-20**] 11:59 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To floors if HR remains stable

2177-01-21 12:39:00 Physician Attending Progress Note
Chief Complaint: afib, RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo male with CAD, paroxysmal afib s/p pelvic resection for newly
   dx'd rectal [**Hospital **] transferred to [**Hospital Unit Name 1**] for rapid atrial fibrillation in
   the setting of post- op fever. On amiodarone infusion with conversion
   to SR shortly after [**Hospital Unit Name 1**] arrival
   24 Hour Events:
 BLOOD CULTURED - At [**2177-1-20**] 03:03 PM
     times two
 URINE CULTURE - At [**2177-1-20**] 03:03 PM
   Episodes of hypotension overnight in setting or rapid HR, responsive to
   IVF challenge
   Received IV lopressor x 2 for rapid rate
   Continued on amiodarone drip
   Hct stable
   No significant changes on ECG
   Patient sitting up in chair [**Location (un) **] the newspaper this morning
                             History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-1-18**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-21**] 11:23 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Morphine Sulfate - [**2177-1-20**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-20**] 07:54 PM
   Metoprolol - [**2177-1-21**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-1-21**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 122 (71 - 145) bpm
   BP: 134/76(88) {81/51(58) - 181/92(115)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.1 kg (admission): 105 kg
   Height: 70 Inch
             Total In:
                                                                  4,129 mL
                                                                    871 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,009 mL
                                                                    751 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    580 mL
   Urine:
                                                                  1,900 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): A & O x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   148 K/uL
   150 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.4 mEq/L
   19 mg/dL
   111 mEq/L
   138 mEq/L
   28.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
                             [**2177-1-20**]  04:15 AM
                             [**2177-1-20**]  03:07 PM
                             [**2177-1-21**]  03:34 AM
   WBC
   17.5
   10.0
   11.5
   Hct
   31.3
   35.6
   29.4
   28.9
   Plt
   147
   144
   148
   Cr
   1.2
   1.4
   1.2
   TropT
   <0.01
   Glucose
   146
   129
   150
   Other labs: PT / PTT / INR:12.3/27.7/1.0, CK / CKMB /
   Troponin-T:263/3/<0.01, Differential-Neuts:83.8 %, Lymph:13.4 %,
   Mono:2.3 %, Eos:0.3 %, Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION:  Improved.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Cultures
   remain no growth to date. Continues empiric unasyn as per surgical
   service.
 LEUKOCYTOSIS:  WBC stable.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):  Postop, pain
   management, advance diet as per
 ATRIAL FIBRILLATION (AFIB);  Has been continued on the amiodarone
   drip, still breaking through with intermittent RVR requiring IV
   lopressor overnight.  Correcting electrolytes.  Plan to change to po
   amiodarone, will add po metoprolol.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Seems adequately pain
   controlled, able to get out of bed to chair, cough with minimal
   splinting.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-19**] 12:53 AM
   20 Gauge - [**2177-1-20**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-01-22 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke w/ Dr. [**Last Name (STitle) 6646**], rec cont amio drip until converts to NSR. Give
   digoxin 0.25 mg IV x 2, and control rate with dilt. When converted give
   PO amio and use dilt prn for rate control
   - very difficult to control rate all day. got amio drip, digoxin IV x2,
   dilt IV and PO. seemed to respond best to dilt so started dilt gtt.
   also lasix
   - a little confused this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-21**] 11:23 AM
   Ampicillin - [**2177-1-22**] 05:51 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2177-1-21**] 02:00 PM
   Furosemide (Lasix) - [**2177-1-21**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-22**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2177-1-22**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.4
C (97.6
   HR: 76 (76 - 148) bpm
   BP: 109/58(69) {109/51(68) - 151/110(120)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 105 kg
   Height: 70 Inch
             Total In:
                                                                  1,177 mL
                                                                    437 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,057 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                    975 mL
   Urine:
                                                                  2,580 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,803 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   169 K/uL
   10.1 g/dL
   156 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.2 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   29.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
                             [**2177-1-20**]  04:15 AM
                             [**2177-1-20**]  03:07 PM
                             [**2177-1-21**]  03:34 AM
                             [**2177-1-22**]  04:05 AM
   WBC
   17.5
   10.0
   11.5
   13.2
   Hct
   31.3
   35.6
   29.4
   28.9
   29.5
   Plt
   147
   144
   148
   169
   Cr
   1.2
   1.4
   1.2
   1.2
   TropT
   <0.01
   Glucose
   146
   129
   150
   156
   Other labs: PT / PTT / INR:12.1/26.3/1.0, CK / CKMB /
   Troponin-T:263/3/<0.01, Differential-Neuts:83.8 %, Lymph:13.4 %,
   Mono:2.3 %, Eos:0.3 %, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   74M with AFib, CAD s/p LAD stent [**69**], HTN, hyperlipidemia, POD#2 s/p [**Month (only) **]
   for rectal [**Hospital **] transferred to the MICU for Afib w/ RVR in setting of
   fever to 102.
   # Afib w/ RVR: Placed on dilt gtt, goes in and out of a fib but rate is
   controlled
   -- Cont Amiodarone 200mg [**Hospital1 **]
   -- Increase po Dilt 60 -> 90 QID, and wean off dilt gtt
   -- Continue lasix [**Hospital1 **]
   -- Replete lytes: K, Mg, Phos
   -- Continue aspirin/plavix
   -- F/u as outpatient regarding stopping plavix and starting coumadin
   given increased Chads2 score
   -- Treat pain
   # Fever/leukocytosis
Low grade fever.  Likely atalectasis.  CXR w/o
   sign of infection and UA w/ bacteria but no pyuria.
   -- Continue unasyn for now, d/w surgery
   -- Resend UA
   -- IS, encourage cough
   -- Trend fever curve
   # Altered mental status: Resolved.  Likely secondary to medications:
   ativan and morphine.  CT head and MRI neg for acute processes.
   Somnolence this AM likely [**12-31**] morphine.
   # Hypertension:
   -- Pain control
   -- Holding ACE-i
   # ARF: Resolved with fluids.
   # CAD s/p BMS [**2169**] to LAD
   -- Continue aspirin, plavix, hold ACE given recent hypotension,
   continue statin
   # Rectal CA s/p [**Month (only) **]: Diet advanced. Wound looks clear.
   -- Appreciate surgical staff following, f/u recs
   -- Pain control w/ Tylenol/oxycodone
   -- Add prn oxycodone
   -- PT consult
   -- Encourage walking
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 LEUKOCYTOSIS
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-19**] 12:53 AM
   20 Gauge - [**2177-1-20**] 11:59 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To floors when off gtt and HR stabilized

2177-01-22 10:24:00 Physician Attending Progress Note
Chief Complaint: afib, RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Achieved adequate rate control adding diltiazem IV and now po
   Diuresis and patient was negative ~1800 cc at midnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-21**] 11:23 AM
   Ampicillin - [**2177-1-22**] 05:51 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2177-1-21**] 02:00 PM
   Furosemide (Lasix) - [**2177-1-21**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-22**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**11-30**] Minimal
   Pain location: with cough and getting out of bed
   Flowsheet Data as of  [**2177-1-22**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.1
C (97
   HR: 99 (76 - 148) bpm
   BP: 104/63(71) {104/57(68) - 151/110(120)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 105 kg
   Height: 70 Inch
             Total In:
                                                                  1,177 mL
                                                                    539 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,057 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                  1,075 mL
   Urine:
                                                                  2,580 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,803 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Soft, Non-tender, Bowel sounds present, staples in tact, no
   erythema or discharge
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, somnolent but
   easily arousable to voice
   Labs / Radiology
   10.1 g/dL
   169 K/uL
   156 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.2 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   29.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2177-1-19**]  04:40 AM
                             [**2177-1-20**]  04:15 AM
                             [**2177-1-20**]  03:07 PM
                             [**2177-1-21**]  03:34 AM
                             [**2177-1-22**]  04:05 AM
   WBC
   17.5
   10.0
   11.5
   13.2
   Hct
   31.3
   35.6
   29.4
   28.9
   29.5
   Plt
   147
   144
   148
   169
   Cr
   1.2
   1.4
   1.2
   1.2
   TropT
   <0.01
   Glucose
   146
   129
   150
   156
   Other labs: PT / PTT / INR:12.1/26.3/1.0, CK / CKMB /
   Troponin-T:263/3/<0.01, Differential-Neuts:83.8 %, Lymph:13.4 %,
   Mono:2.3 %, Eos:0.3 %, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR:  decreased interstitial
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Adequate rate control, likely a
   combination of diuresis and initiating the dilitiazem in addition to
   amiodarone.  Will discontinue diltiazem drip. Increase po diltiazem to
   90 mg.
 DELIRIUM / CONFUSION:  Improved.
 LEUKOCYTOSIS:  WBC drifting up.  Check differential.  Wound looks
   fine.  Check UA, C & S.  Continues empiric unasyn as per surgery, will
   review plans for antibiotic course with their team.  No cough/sputum
   production.  CXR without focal infiltrate.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):    PT consult
   to ambulate.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Patient taking only
   tylenol.  Will give oxycodone prior to moving out of bed to chair or
   ambulating.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-1-21**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill